US07488832B2
Step 2. methyl(2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetate
To a solution of 2-benzyl-5-phenyl-1H-pyrrole (467 mg, 2.0 mmo) in DMF (5 ml) was added NaH (60% in mineral oil, 240 mg, 6.0 mmol) at room temperature in one portion. After stirring for 30 min at room temperature, the reaction mixture was heated to 60° C. and methyl bromoacetate (0.57 ml, 6.0 mmol) was added. After 1 h stirring at 60° C., the reaction was cooled and quenched with aqueous 1N HCl (30 ml). The aqueous was extracted with EtOAc (3×30 ml). The combined organic extracts were washed with aqueous 1N HCl (30 ml), H2O (30 ml), brine (30 ml), dried (MgSO4) and concentrated. The crude material was purified by chromatography (EtOAc/hexane: 3/97) to afford the titled compound (240 mg, 39%) as an oil: MS (+) ES, 306 (M+H)+.

reactant | 2-benzyl-5-phenyl-1H-pyrrole | 467 mg | C(C1=CC=CC=C1)C=1NC(=CC1)C1=CC=CC=C1 | C17H15N
reactant | NaH | 6.0 mmol, 240 mg | [H-].[Na+]
reactant | methyl bromoacetate | 6.0 mmol, 0.57 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl(2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetate | 240 mg, 39% | COC(CN1C(=CC=C1C1=CC=CC=C1)CC1=CC=CC=C1)=O | C20H19NO2
